US08614328B2
A mixture of 3-(3-chloro-benzo[b]thiophen-2-ylmethoxy)-phthalic acid (1.6 g, 4.4 mmol), alpha-amino-glutarimide hydrochloride (0.76 g, 4.6 mmol) in pyridine was refluxed overnight. The mixture was evaporated and the residue was purified by flash column chromatography (methanol/methylene chloride) to give 4-(3-chloro-benzo[b]thiophen-2-ylmethoxy)-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione as a white solid (0.76 g, 38% yield); HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 60/40 CH3CN/0.1% H3PO4, 5.26 min (98.7%); mp, 240-242° C.; 1H NMR (DMSO-d6) δ 2.02-2.06 (m, 1H, CHH), 2.54-2.62 (m, 2H, CH2), 2.83-2.95 (m, 1H, CHH), 5.10 (dd, J=6, 12 Hz, 1H, CH), 5.74 (s, 2H, CH2), 7.49-8.10 (m, 7H, Ar), 11.12 (s, 1H, NH); 13C NMR (DMSO-d6) δ 21.94, 30.90, 48.79, 63.99, 116.26, 116.98, 118.36, 120.46, 121.39, 123.36, 125.57, 126.19, 132.93, 133.34, 135.42, 136.91, 137.04, 154.62, 165.05, 166.64, 169.85, 172.73. Anal Calcd For C22H15N7O5SCl+0.1H2O: C, 58.09; H, 3.32; N, 6.16; S, 7.05; Cl, 7.79. Found: C, 57.77; H, 3.06; N, 6.08; S, 6.87; Cl, 8.05.

reactant | 3-(3-chloro-benzo[b]thiophen-2-ylmethoxy)-phthalic acid | 4.4 mmol, 1.6 g | ClC=1C2=C(SC1COC1=C(C(C(=O)O)=CC=C1)C(=O)O)C=CC=C2 | C17H11ClO5S
reactant | alpha-amino-glutarimide hydrochloride | 4.6 mmol, 0.76 g | Cl.NC1C(=O)NC(CC1)=O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-(3-chloro-benzo[b]thiophen-2-ylmethoxy)-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione | 0.76 g, 38% yield | ClC=1C2=C(SC1COC1=C3C(N(C(C3=CC=C1)=O)C1C(NC(CC1)=O)=O)=O)C=CC=C2 | C22H15ClN2O5S
